US07332499B2
Tert-butyl(1R)-1-(4-bromo-2-fluorophenyl)ethylcarbamate (10.04 g, 31.55 mmol) was dissolved in ethyl acetate and treated with hydrochloric acid gas. A white solid precipitated and the suspension was concentrated under reduced pressure to yield (1R)-1-(4-bromo-2-fluorophenyl)ethanaminium chloride as a white solid that was used without further purification. Low resolution mass spectrometry: (M+H+−NH3)=201.1.

reactant | Tert-butyl(1R)-1-(4-bromo-2-fluorophenyl)ethylcarbamate | 31.55 mmol, 10.04 g | BrC1=CC(=C(C=C1)[C@@H](C)NC(OC(C)(C)C)=O)F | C13H17BrFNO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R)-1-(4-bromo-2-fluorophenyl)ethanaminium chloride | [Cl-].BrC1=CC(=C(C=C1)[C@@H](C)[NH3+])F | InChI=1S/C8H9BrFN.ClH/c1-5(11)7-3-2-6(9)4-8(7)10;/h2-5H,11H2,1H3;1H/t5-;/m1./s1
